US08895313B2
4-Methoxy-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide
Prepared as described in the Amide Coupling section using 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline (70 mg, 0.314 mmol) and 4-methoxybenzoyl chloride (54 mg, 0.314 mmol) in dry pyridine (5 ml) to give the title compound (89 mg, 79%) as a pale yellow solid after work-up and flash chromatography (15:1 DCM/MeOH).

reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline | 0.314 mmol, 70 mg | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C14H13N3
reactant | 4-methoxybenzoyl chloride | 0.314 mmol, 54 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 89 mg, 79% | COC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=C1 | C22H19N3O2
